US05646140
2-[2,4-Dioxo-5-phenyl-3-(3-phenyl-ureido)-2,3,4,5-tetrahydro-benzo[b][1, 4]diazepin-1-yl]-N-isopropyl-N-phenyl-acetamide
To a solution of 1-(2, 4-dioxo-1-phenyl-2,3,4,5-tetrahydro-1H-benzo [b][1, 4]-diazepin-3-yl)-3-phenyl urea (0.100 g.) in N,N-dimethylformamide (2 ml) cooled to 3° C., was added sodium hydride (0.0104 g; 60% suspension in mineral oil) with stirring. The mixture was stirred 20 minutes, then 2-bromo-N-isopropyl-N-phenyl acetamide (0.0656 g) was added in one portion. The resultant mixture was stirred at ambient temperature overnight. The crude reaction mixture was purified by preparative RP-HPLC with a gradient elution of 60-72% acetonitrile in water with 0.1% trifluoroacetic acid buffer over a 30 minute period at a rate of 100 ml/min. Fractions containing the desired material were combined, frozen and lyophilized to provide the title compound (0.0653 g) as a white powder. 1H NMR (300 MHz, DMSO-d6): d 0.95 (d, J=7.3 Hz, 3H), 0.98 (d, J=7.3 Hz, 3H), 4.19 (d, J=16.6 Hz, 1H), 4.48 (d, J=16.9 Hz, 1H), 4.79 (m, 1H), 5.04 (d, J=7.8 Hz, 1H), 6.87-6.92(m, 1H), 6.95(d, J=7.6 Hz, 1H), 7.18-7.57 (m, 17H), 9.14 (s, 1H); MS (FAB): m/z=562 (MH+); TLC (CH2Cl2 /CH3OH, 19:1): Rf =0.19; RP-HPLC (Vydac C-18, 25 cm×4.6 mm; 60-72% CH3CN in H2O with 0.1% TFA buffer;, 30 minutes; 1 ml/min): tf =17.5 min (t0 =2.5 min); m.p.: 230°-235° C.

reactant | 1-(2, 4-dioxo-1-phenyl-2,3,4,5-tetrahydro-1H-benzo [b][1, 4]-diazepin-3-yl)-3-phenyl urea | 0.100 g | O=C1C(C(NC2=C(N1C1=CC=CC=C1)C=CC=C2)=O)NC(=O)NC2=CC=CC=C2 | C22H18N4O3
reactant | sodium hydride | 0.0104 g | [H-].[Na+]
reactant | 2-bromo-N-isopropyl-N-phenyl acetamide | 0.0656 g | BrCC(=O)N(C1=CC=CC=C1)C(C)C | C11H14BrNO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[2,4-Dioxo-5-phenyl-3-(3-phenyl-ureido)-2,3,4,5-tetrahydro-benzo[b][1, 4]diazepin-1-yl]-N-isopropyl-N-phenyl-acetamide | 0.0653 g | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)NC(=O)NC2=CC=CC=C2 | C33H31N5O4
